### PR TITLE
[Merged by Bors] - feat: factorization of cyclotomic polynomial over finite fields

### PR DESCRIPTION
**Pull request by riccardobrasca**
We compute the degree of the factors of the `n`-th cyclotomic polynomial over a finite field of  characteristic `p` when `p` and `n` are coprime.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Factorization.lean [hunk 1]
```diff
@@ -0,0 +1,168 @@
...
+
+private lemma f_ne_zero : f ≠ 0 := fun h0 ↦ not_subsingleton K <|
+    Fintype.card_le_one_iff_subsingleton.mp <| by simpa [h0] using hK.le
+
+variable [hp : Fact p.Prime]
+
+/-- The degree of an irreducible monic factor of the `n` cyclotomic polynomial over a finite field.
+  This is a special case of `natDegree_of_dvd_cyclotomic_of_irreducible` below. -/
+private theorem natDegree_of_dvd_cyclotomic_of_irreducible_of_monic (hP : P ∣ cyclotomic n K)
+      (hPirr : Irreducible P) (hPmo : P.Monic) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Cyclotomic/Factorization.lean]:
```suggestion
    (hPirr : Irreducible P) (hPmo : P.Monic) :
```

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Factorization.lean [hunk 2]
```diff
@@ -0,0 +1,168 @@
...
+    exact hp.out.coprime_iff_not_dvd.mp ((coprime_pow_left_iff
+      (pos_of_ne_zero <| f_ne_zero hK) _ _).mp (hn.pow_left f))
+        ((CharP.cast_eq_zero_iff K p _).mp H)
+  have hP : P ∈ normalizedFactors (cyclotomic n K) := count_pos.mp (by omega)
+  refine (prime_of_normalized_factor _ hP).not_unit (sq P ?_)
+  have : {P, P} ≤ normalizedFactors (cyclotomic n K) := by
+    refine le_iff_count.mpr (fun Q ↦ ?_)
+    by_cases hQ : Q = P
+    · simp only [hQ, insert_eq_cons, count_cons_self, nodup_singleton, mem_singleton,
+      count_eq_one_of_mem, reduceAdd]
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Cyclotomic/Factorization.lean]:
```suggestion
        count_eq_one_of_mem, reduceAdd]
```

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Factorization.lean [hunk 3]
```diff
@@ -0,0 +1,168 @@
...
+      omega
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Cyclotomic/Factorization.lean]: Does `cutsat` prove it?

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean [hunk 4]
```diff
@@ -646,6 +646,11 @@ theorem _root_.IsPrimitiveRoot.pow_add_pow_eq_prod_add_mul (hodd : Odd n)
     (h : IsPrimitiveRoot ζ n) : x ^ n + y ^ n = ∏ ζ ∈ nthRootsFinset n (1 : R), (x + ζ * y) := by
   simpa [hodd.neg_pow] using h.pow_sub_pow_eq_prod_sub_mul x (-y) hodd.pos
 
+theorem cyclotomic_squarefree {K : Type*} [Field K] {n : ℕ} (hn : (n : K) ≠ 0) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean]:
```suggestion
theorem squarefree_cyclotomic {K : Type*} [Field K] {n : ℕ} (hn : (n : K) ≠ 0) :
```

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Factorization.lean [hunk 5]
```diff
@@ -0,0 +1,168 @@
...
+
+include hK
+
+private lemma f_ne_zero : f ≠ 0 := fun h0 ↦ not_subsingleton K <|
+    Fintype.card_le_one_iff_subsingleton.mp <| by simpa [h0] using hK.le
+
+variable [hp : Fact p.Prime]
+
+/-- The degree of an irreducible monic factor of the `n` cyclotomic polynomial over a finite field.
+  This is a special case of `natDegree_of_dvd_cyclotomic_of_irreducible` below. -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Cyclotomic/Factorization.lean]:
```suggestion
This is a special case of `natDegree_of_dvd_cyclotomic_of_irreducible` below. -/
```
(similar below)

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Factorization.lean [hunk 6]
```diff
@@ -0,0 +1,168 @@
...
+  exact dvd_of_mem_normalizedFactors <| mem_of_le
+    ((dvd_iff_normalizedFactors_le_normalizedFactors hP0 (cyclotomic_ne_zero n K)).mp hP) HQ
+
+omit hK in
+/-- Let `P` be a factor of the `n`-th cyclotomic polynomial over `ZMod p`, where `p` does not divide
+  `n`. If the degree of `P` is the multiplicative order of `p` modulo `n` then `P` is
+  irreducible. -/
+theorem _root_.ZMod.irreducible_of_dvd_cyclotomic_of_natDegree {P : (ZMod p)[X]} (hpn : ¬p ∣ n)
+      (hP : P ∣ cyclotomic n (ZMod p))
+      (hPdeg : P.natDegree = orderOf (unitOfCoprime _ (hp.1.coprime_iff_not_dvd.mpr hpn))) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Cyclotomic/Factorization.lean]:
```suggestion
    (hP : P ∣ cyclotomic n (ZMod p))
    (hPdeg : P.natDegree = orderOf (unitOfCoprime _ (hp.1.coprime_iff_not_dvd.mpr hpn))) :
```

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Factorization.lean [hunk 7]
```diff
@@ -0,0 +1,168 @@
...
+    Irreducible P :=
+  Polynomial.irreducible_of_dvd_cyclotomic_of_natDegree (f := 1) (p := p) (by simp)
+    (by simpa using hp.1.coprime_iff_not_dvd.mpr hpn) hP (by simpa)
+
+open UniqueFactorizationMonoid Nat
+
+variable [DecidableEq K]
+
+theorem natDegree_of_mem_normalizedFactors_cyclotomic
+      (hP : P ∈ normalizedFactors (cyclotomic n K)) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Cyclotomic/Factorization.lean]:
```suggestion
    (hP : P ∈ normalizedFactors (cyclotomic n K)) :
```

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Factorization.lean [hunk 8]
```diff
@@ -0,0 +1,168 @@
...
+    P.natDegree = orderOf (unitOfCoprime _ (hn.pow_left f)) :=
+  natDegree_of_dvd_cyclotomic_of_irreducible hK hn (dvd_of_mem_normalizedFactors hP)
+    (irreducible_of_normalized_factor P hP)
+
+/-- Let `K` be a finite field of cardinality `p ^ f` and let `P` be an irreducible factor of the
+  `n`-th cyclotomic polynomial over `K`, where `p` and `n` are coprime. This result computes the
+  number of irreducible factors of `cyclotomic n K`. -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Cyclotomic/Factorization.lean]:
```suggestion
  number of distinct irreducible factors of `cyclotomic n K`. -/
```
?

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Factorization.lean [hunk 9]
```diff
@@ -0,0 +1,168 @@
...
+theorem normalizedFactors_cyclotomic_card : (normalizedFactors (cyclotomic n K)).toFinset.card =
+    φ n / orderOf (unitOfCoprime _ (hn.pow_left f)) := by
+  have h := prod_normalizedFactors (cyclotomic_ne_zero n K)
+  have : ∀ P ∈ normalizedFactors (cyclotomic n K), P.natDegree = orderOf
+    (unitOfCoprime _ (hn.pow_left f)) := fun P hP ↦ natDegree_of_mem_normalizedFactors_cyclotomic
+      hK hn hP
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Cyclotomic/Factorization.lean]: I think this would be more readable as
```suggestion
  have : ∀ P ∈ normalizedFactors (cyclotomic n K),
      P.natDegree = orderOf (unitOfCoprime _ (hn.pow_left f)) := fun P hP ↦
    natDegree_of_mem_normalizedFactors_cyclotomic hK hn hP
```
or
```suggestion
  have this (P) (hP : P ∈ normalizedFactors (cyclotomic n K)) :
      P.natDegree = orderOf (unitOfCoprime _ (hn.pow_left f)) :=
    natDegree_of_mem_normalizedFactors_cyclotomic hK hn hP
```

**Review by Ruben-VandeVelde — APPROVED** [review]
Just minor comments, thanks

maintainer delegate

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Factorization.lean (hunk 3 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/Polynomial/Cyclotomic/Factorization.lean]: It does!

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean [hunk 10]
```diff
@@ -646,6 +646,11 @@ theorem _root_.IsPrimitiveRoot.pow_add_pow_eq_prod_add_mul (hodd : Odd n)
     (h : IsPrimitiveRoot ζ n) : x ^ n + y ^ n = ∏ ζ ∈ nthRootsFinset n (1 : R), (x + ζ * y) := by
   simpa [hodd.neg_pow] using h.pow_sub_pow_eq_prod_sub_mul x (-y) hodd.pos
 
+theorem squarefree_cyclotomic {K : Type*} [Field K] {n : ℕ} (hn : (n : K) ≠ 0) :
+    Squarefree (cyclotomic n K) :=
+  ((X_pow_sub_one_separable_iff.mpr hn).of_dvd
+    (cyclotomic.dvd_X_pow_sub_one n K)).squarefree
```
Comment (Vierkantor) [inline Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean]: I think separability would be a useful result in itself, as this is where the "interesting" idea happens.
```suggestion
theorem separable_cyclotomic {K : Type*} [Field K] {n : ℕ} (hn : (n : K) ≠ 0) :
    Separable (cyclotomic n K) :=
  ((X_pow_sub_one_separable_iff.mpr hn).of_dvd
    (cyclotomic.dvd_X_pow_sub_one n K))

theorem squarefree_cyclotomic {K : Type*} [Field K] {n : ℕ} (hn : (n : K) ≠ 0) :
    Squarefree (cyclotomic n K) :=
 (separable_cyclotomic hn).squarefree
```

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Factorization.lean [hunk 11]
```diff
@@ -0,0 +1,168 @@
...
+open ZMod AdjoinRoot FiniteField Multiset
+
+include hK
+
+private lemma f_ne_zero : f ≠ 0 := fun h0 ↦ not_subsingleton K <|
+    Fintype.card_le_one_iff_subsingleton.mp <| by simpa [h0] using hK.le
+
+variable [hp : Fact p.Prime]
+
+/-- The degree of an irreducible monic factor of the `n` cyclotomic polynomial over a finite field.
```
Comment (Vierkantor) [inline Mathlib/RingTheory/Polynomial/Cyclotomic/Factorization.lean]:
```suggestion
/-- The degree of an irreducible monic factor of the `n`-th cyclotomic polynomial over a finite field.
```

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean (hunk 10 above)
Comment (riccardobrasca) [reply Mathlib/RingTheory/Polynomial/Cyclotomic/Basic.lean]: Oh, `separable_cyclotomic` already existed with a comment saying that it should be moved, so I did it :)

**Comment by riccardobrasca** [comment]
bors merge

**Comment by Vierkantor** [comment]
Looks like there are still build errors :(

bors d+

**Comment by riccardobrasca** [comment]
bors merge
